US07534797B2
A solution of 4-chloro-2-nitrotoluene (514.8 mg, 3.000 mmol) and dimethylformamide dimethylacetal (1.200 ml, 1074 mg, 9.000 mmol) in DMF (1.2 ml) was heated at 135° C. in a sealed tube for 15 h. The reaction mixture was cooled to rt and added dropwise to a 20° C. solution of NaIO4 (1926 mg, 9.000 mmol) in water (6.18 ml) and DMF (3.09 ml). After 3 h, the mixture was treated with water (20 ml) and extracted with EtOAc (3×15 ml). The extracts were washed with water (3×15 ml) and brine (15 ml), and dried over MgSO4. After the solid was filtered off and the solvent was removed in vacuo, a brown solid of 4-chloro-2-nitrobenzaldehyde was obtained (J. Org. Chem. 2003, 68, 4104-4107). 1H NMR (CDCl3, 400 MHz) δ 7.74-7.78 (m, 1H), 7.94-7.96 (m, 1H), 8.11-8.12 (m, 1H), 10.39 (s, 1H).

reactant | 4-chloro-2-nitrotoluene | 3.000 mmol, 514.8 mg | ClC1=CC(=C(C=C1)C)[N+](=O)[O-] | C7H6ClNO2
reactant | dimethylformamide dimethylacetal | 9.000 mmol, 1.200 ml, 1074 mg | COC(N(C)C)OC | C5H13NO2
solvent | DMF | 1.2 ml | CN(C)C=O | C3H7NO
solvent | water | 6.18 ml | O | H2O
solvent | DMF | 3.09 ml | CN(C)C=O | C3H7NO
solvent | water | 20 ml | O | H2O
product | 4-chloro-2-nitrobenzaldehyde | ClC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C7H4ClNO3
